US05075299
6-Morpholinomethyl-5-hydroxy-2-hydroxymethyl-4-pyrone
In 70 ml of ethanol were dissolved 7 g of morpholine and 6.4 ml of 35% formalin followed by stirring at room temperature for 30 minutes. Further, 8.3 g of kojic acid was added thereto and stirred for 30 minutes in the same temperature. The formed crystals were taken out by filtration, washed in succession with ethanol and ether and dried to give 11.5 g of the title compound.

reactant | morpholine | 7 g | N1CCOCC1 | C4H9NO
reactant | formalin | 6.4 ml | C=O | CH2O
reactant | kojic acid | 8.3 g | C1=C(OC=C(C1=O)O)CO | C6H6O4
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 6-Morpholinomethyl-5-hydroxy-2-hydroxymethyl-4-pyrone | 11.5 g | O1CCN(CC1)CC1=C(C(C=C(O1)CO)=O)O | C11H15NO5
